US04307233
2-Benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetamido]-3-(2-methylthiovinyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (syn isomer, mixture of E- and Z-forms) (1.26 g) is dissolved in formic acid (35 cc), water (13 cc) is added and the mixture is heated at 50° C. for 15 minutes. It is then allowed to cool, filtered and concentrated to dryness under reduced pressure (20 mm Hg at 20° C.). The residue is triturated in diethyl ether (20 cc), filtered off, washed with ether (20 cc) and dried. 7-[2-(2-Aminothiazol-4-yl)-2-methoxyimino-acetamido]-2-carboxy-3-(2-methylthio-vinyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (syn isomer, mixture of E- and Z-forms) (0.63 g) is obtained as a solvate with formic acid, in the form of a cream-coloured powder.

reactant | 2-Benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetamido]-3-(2-methylthiovinyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 1.26 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=CSC)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C48H41N5O5S3
reactant | water | 13 cc | O | H2O
solvent | formic acid | 35 cc | C(=O)O | CH2O2
product | 7-[2-(2-Aminothiazol-4-yl)-2-methoxyimino-acetamido]-2-carboxy-3-(2-methylthio-vinyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 0.63 g | NC=1SC=C(N1)C(C(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)C=CSC)=NOC | C16H17N5O5S3
